data/mechanism_extracts/Tetrahedron/10.1016_j.tet.2008.07.098.json
{"doi": "10.1016_j.tet.2008.07.098", "journal": "Tetrahedron", "is_review": false, "rxn_class_summary": "Nickel-catalyzed electrochemical conjugate addition of ortho-functionalized aryl bromides to Michael acceptors with sacrificial iron anode, followed by base-promoted cyclization to dihydro/tetrahydronaphthalenes.", "mechanism_family": ["electrocatalysis_inner_sphere", "sacrificial_anode", "anion_initiated", "mediator_cathodic"], "electrochemical_role": "Cathodic reduction of Ni(II) (with 2 e-) generates a low-valent nickel species that undergoes oxidative addition into the Ar-Br bond; the sacrificial iron anode releases Fe(II) ions that act as a Lewis acid activating the Michael acceptor and the resulting carbanion/enolate intermediate.", "key_intermediates": [{"name": "ArNi species from oxidative addition of o-(cyanomethyl)aryl bromide", "smiles": null, "role": "reactive"}, {"name": "Fe(II)-stabilized benzylic/α-EWG carbanion (Michael adduct anion)", "smiles": null, "role": "reactive"}, {"name": "Intramolecular ketenimine-type cyclized anion (from CN attack by benzylic carbanion)", "smiles": null, "role": "transient"}, {"name": "1-amino-3,4-dihydronaphthalene-2-carbonitrile (compound 19)", "smiles": "N#CC1=C(N)c2ccccc2CC1", "role": "reactive"}, {"name": "Open-chain conjugate addition product (e.g., 16, 18, 20)", "smiles": null, "role": "reactive"}, {"name": "Dialkylated benzylic anion intermediate (Scheme 7)", "smiles": null, "role": "off_pathway"}], "electron_flow": "At the cathode, Ni(II) is reduced by 2 e- to Ni(0), which oxidatively adds into the Ar-Br bond; the resulting aryl-nickel transfers the aryl group to the activated olefin, generating an α-EWG carbanion stabilized by Fe(II) (released by anodic dissolution of the iron anode), which either is protonated by EtOH to give the conjugate adduct or cyclizes onto a tethered CN/COCH3 group to give the bicyclic product.", "rate_determining_step": null, "probe_reagents": [{"name": "ethanol (proton source)", "smiles": "CCO", "purpose": "other", "observation": "Addition of 1-4 equiv EtOH suppresses cyclization and favors the open-chain conjugate addition product (48-62% isolated); Fe(II) from anode enhances EtOH acidity."}, {"name": "stainless steel anode (replacing Fe)", "smiles": null, "purpose": "other", "observation": "With non-sacrificial stainless-steel anode (runs 4-5), no Fe(II) Lewis acid is released and conjugate addition product is not observed (only cyclized 21, 22 formed), supporting the role of Fe(II) released from the sacrificial anode."}, {"name": "excess acrylonitrile (4 equiv)", "smiles": "C=CC#N", "purpose": "intermediate_trap", "observation": "With o-acetyl aryl bromide 13 and acrylonitrile, double alkylation at the benzylic position is observed (compound 23), consistent with a benzylic carbanion intermediate (Scheme 7)."}], "evidence_types_used": ["isolation_of_intermediate", "intermediate_trap_other", "stoichiometric_intermediate"], "evidence_strength": "medium", "notes": "Two competing pathways are proposed depending on conditions: (i) Ni-mediated aryl transfer followed by intramolecular cyclization of the α-EWG carbanion onto the ortho CN or COCH3 group gives bicyclic dihydro/tetrahydronaphthalenes (Scheme 6); (ii) when EtOH is added, the intermediate carbanion is protonated, giving the acyclic conjugate addition product that can be cyclized in a second step with NaOEt. Scheme 7 shows a competing benzylic dialkylation pathway with excess acrylonitrile. Fe(II) from the sacrificial iron anode is explicitly invoked as a Lewis acid activating both the Michael acceptor and EtOH."}
